US08207180B2
8-Amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester (M1)
To a solution of 8-amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester N1 (0.62 mmol) in DMF (5 mL) and under argon, HCOONa (1.4 mmol) and Pd(Ph3P)4 (0.04 mmol) were added and the mixture was heated at 100° C. for 4 h. The mixture was cooled to rt, diluted with dichloromethane and washed with water. The organic phase was dried (Na2SO4) and evaporated to dryness. Chromatography on silica gel (eluant: AcOEt/hexane 1:1) afforded the title compound (83% yield). ESI (+) MS: m/z 273 (MH+). 1H NMR: 1.32 (t, J=7.07, 3H), 2.70 (t, J=7.70, 2H), 2.90 (t, J=7.70, 2H), 4.18 (s, 3H), 4.25 (q, J=7.07, 2H), 6.35 (bs, 2H), 7.73 (s, 1H), 8.01 (s, 1H).

reactant | 8-amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C2=C1CCC1=CN=C(N=C21)N)C)I | C14H15IN4O2
reactant | HCOONa | 1.4 mmol | C(=O)O[Na]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(Ph3P)4 | 0.04 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | 83% yield | C(C)OC(=O)C1=CN(C2=C1CCC1=CN=C(N=C21)N)C | C14H16N4O2
